US04567186
The intermediate 3-amino-1-(2-furanyl)-2-buten-1-one was prepared as follows: A mixture containing 165 g of 1-(2-furanyl)-1,3-butanedione, 700 ml of toluene and 200 g of ammonium acetate was azeotroped for six hours, cooled and concentrated to dryness in vacuo. The residue was dissolved in isopropyl alcohol, the solution treated with decolorizing charcoal and filtered, and the filtrate concentrated to remove the solvent. The remaining residue was recrystallized from ether-ethanol and dried at room temperature to yield 80.2 g of 3-amino-1-(2-furanyl)-2-buten-1-one, m.p. 128°-130° C. Another 33.4 g of the product, m.p. 128°-130° C. was collected by concentrating the mother liquor and extracting the product with ether.

reactant | 1-(2-furanyl)-1,3-butanedione | 165 g | O1C(=CC=C1)C(CC(C)=O)=O | C8H8O3
reactant | ammonium acetate | 200 g | C(C)(=O)[O-].[NH4+]
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 3-amino-1-(2-furanyl)-2-buten-1-one | 80.2 g | NC(=CC(=O)C=1OC=CC1)C | C8H9NO2
